V_tag_data_0 (Tag_Data\\<0\\> gnd!) vsource type=pwl wave=\[
+ 0    -0.3
+ \]
V_tag_data_bar_0 (Tag_Data_bar\\<0\\> gnd!) vsource type=pwl wave=\[
+ 0    0.9
+ \]
V_tag_data_1 (Tag_Data\\<1\\> gnd!) vsource type=pwl wave=\[
+ 0    -0.3
+ \]
V_tag_data_bar_1 (Tag_Data_bar\\<1\\> gnd!) vsource type=pwl wave=\[
+ 0    0.9
+ \]
V_tag_data_2 (Tag_Data\\<2\\> gnd!) vsource type=pwl wave=\[
+ 0    -0.3
+ \]
V_tag_data_bar_2 (Tag_Data_bar\\<2\\> gnd!) vsource type=pwl wave=\[
+ 0    0.9
+ \]
V_tag_data_3 (Tag_Data\\<3\\> gnd!) vsource type=pwl wave=\[
+ 0    -0.3
+ \]
V_tag_data_bar_3 (Tag_Data_bar\\<3\\> gnd!) vsource type=pwl wave=\[
+ 0    0.9
+ \]
V_tag_data_4 (Tag_Data\\<4\\> gnd!) vsource type=pwl wave=\[
+ 0    -0.3
+ \]
V_tag_data_bar_4 (Tag_Data_bar\\<4\\> gnd!) vsource type=pwl wave=\[
+ 0    0.9
+ \]
V_tag_data_5 (Tag_Data\\<5\\> gnd!) vsource type=pwl wave=\[
+ 0    -0.3
+ \]
V_tag_data_bar_5 (Tag_Data_bar\\<5\\> gnd!) vsource type=pwl wave=\[
+ 0    0.9
+ \]
V_tag_data_6 (Tag_Data\\<6\\> gnd!) vsource type=pwl wave=\[
+ 0    -0.3
+ \]
V_tag_data_bar_6 (Tag_Data_bar\\<6\\> gnd!) vsource type=pwl wave=\[
+ 0    0.9
+ \]
V_tag_data_7 (Tag_Data\\<7\\> gnd!) vsource type=pwl wave=\[
+ 0    -0.3
+ \]
V_tag_data_bar_7 (Tag_Data_bar\\<7\\> gnd!) vsource type=pwl wave=\[
+ 0    0.9
+ \]
V_tag_data_8 (Tag_Data\\<8\\> gnd!) vsource type=pwl wave=\[
+ 0    -0.3
+ \]
V_tag_data_bar_8 (Tag_Data_bar\\<8\\> gnd!) vsource type=pwl wave=\[
+ 0    0.9
+ \]
V_tag_data_9 (Tag_Data\\<9\\> gnd!) vsource type=pwl wave=\[
+ 0    -0.3
+ \]
V_tag_data_bar_9 (Tag_Data_bar\\<9\\> gnd!) vsource type=pwl wave=\[
+ 0    0.9
+ \]
V_tag_data_10 (Tag_Data\\<10\\> gnd!) vsource type=pwl wave=\[
+ 0    -0.3
+ \]
V_tag_data_bar_10 (Tag_Data_bar\\<10\\> gnd!) vsource type=pwl wave=\[
+ 0    0.9
+ \]
V_tag_data_11 (Tag_Data\\<11\\> gnd!) vsource type=pwl wave=\[
+ 0    -0.3
+ \]
V_tag_data_bar_11 (Tag_Data_bar\\<11\\> gnd!) vsource type=pwl wave=\[
+ 0    0.9
+ \]
V_tag_data_12 (Tag_Data\\<12\\> gnd!) vsource type=pwl wave=\[
+ 0    -0.3
+ \]
V_tag_data_bar_12 (Tag_Data_bar\\<12\\> gnd!) vsource type=pwl wave=\[
+ 0    0.9
+ \]
V_tag_data_13 (Tag_Data\\<13\\> gnd!) vsource type=pwl wave=\[
+ 0    -0.3
+ \]
V_tag_data_bar_13 (Tag_Data_bar\\<13\\> gnd!) vsource type=pwl wave=\[
+ 0    0.9
+ \]
V_tag_data_14 (Tag_Data\\<14\\> gnd!) vsource type=pwl wave=\[
+ 0    -0.3
+ \]
V_tag_data_bar_14 (Tag_Data_bar\\<14\\> gnd!) vsource type=pwl wave=\[
+ 0    0.9
+ \]
V_tag_data_15 (Tag_Data\\<15\\> gnd!) vsource type=pwl wave=\[
+ 0    -0.3
+ \]
V_tag_data_bar_15 (Tag_Data_bar\\<15\\> gnd!) vsource type=pwl wave=\[
+ 0    0.9
+ \]
V_tag_data_16 (Tag_Data\\<16\\> gnd!) vsource type=pwl wave=\[
+ 0    -0.3
+ \]
V_tag_data_bar_16 (Tag_Data_bar\\<16\\> gnd!) vsource type=pwl wave=\[
+ 0    0.9
+ \]
V_tag_data_17 (Tag_Data\\<17\\> gnd!) vsource type=pwl wave=\[
+ 0    -0.3
+ \]
V_tag_data_bar_17 (Tag_Data_bar\\<17\\> gnd!) vsource type=pwl wave=\[
+ 0    0.9
+ \]
V_tag_data_18 (Tag_Data\\<18\\> gnd!) vsource type=pwl wave=\[
+ 0    -0.3
+ \]
V_tag_data_bar_18 (Tag_Data_bar\\<18\\> gnd!) vsource type=pwl wave=\[
+ 0    0.9
+ \]
V_tag_data_19 (Tag_Data\\<19\\> gnd!) vsource type=pwl wave=\[
+ 0    -0.3
+ \]
V_tag_data_bar_19 (Tag_Data_bar\\<19\\> gnd!) vsource type=pwl wave=\[
+ 0    0.9
+ \]
